data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_82576_1,[C:1]([C:3]([O:5][N:2]([C:4](=[O:7])[H:9])[H:8])=[O:6])([H:10])([H:11])[H:12]>>[C:1]([C:3](=[O:6])[O:7][C:4]1([H:9])[N:2]([H:8])[O:5]1)([H:10])([H:11])[H:12],63.96734999997264
MR_37708_1,[C:1]([C:3]([H:19])([H:20])[H:21])([C:6]1([C:2]([C:4]([H:22])([H:23])[H:24])([N:8]([H:15])[H:16])[H:12])/[C:5](=[N:9]\[H:17])[N:10]1[H:18])([N:7]([H:13])[H:14])[H:11]>>[C:1]([C:3]([H:19])([H:20])[H:21])([C:6](/[C:5]([C:2]([C:4]([H:22])([H:23])[H:24])([N:8]([H:15])[H:16])[H:12])=[N:9]\[H:17])=[N:10]\[H:18])([N:7]([H:13])[H:14])[H:11],48.74608249998687
MR_86442_0,[C:1](/[C:6](=[C:3](/[N:2]([N:4]([H:8])[H:9])[H:7])[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@@:6](/[C:3](=[N:2]/[H:7])[N:5]([H:10])[H:11])([N:4]([H:8])[H:9])[H:12])([H:13])([H:14])[H:15],62.34902749999222
MR_635924_0,[N:1](/[C:2](=[C:5](\[N:4]([H:13])[H:14])[H:15])[O:8][H:11])([C:3](=[C:6]([H:16])[H:17])[O:9][H:12])[O:7][H:10]>>[N:1](=[C:2](\[C@@:5]([C:3](=[C:6]([H:16])[H:17])[O:9][H:12])([N:4]([H:13])[H:14])[H:15])[O:8][H:11])\[O:7][H:10],57.65720999996006
MR_95222_1,[C@@:1]12([H:13])[C:3]([H:16])([H:17])[C@:5]([C:2]([O:9][H:12])([H:14])[H:15])([O:8][H:11])[C:4]1([O:7][H:10])[O:6]2>>[C:1]1([C:2]([O:9][H:12])([H:14])[H:15])([H:13])[C:3]([H:16])([H:17])[C:5]([O:8][H:11])=[C:4]([O:7][H:10])[O:6]1,50.19748999996068
MR_552006_0,[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[N:7]=[C:5]([H:11])[N:8]1/[C:6](=[N:4]/[H:9])[H:10]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[N:7]=[C:5]([H:11])[N:4]([H:9])[C:6]([H:10])=[N:8]1,65.75823499998108
MR_460447_1,[C:1]([C:5]([C:2]([H:18])([H:19])[H:20])=[C:8]([N:3](/[C:4]([N:6]([H:12])[H:13])=[C:7](\[O:9][H:10])[H:14])[H:11])[H:15])([H:16])([H:17])[H:21]>>[C:1](=[C:5]([C:2]([H:18])([H:19])[H:20])[C:8]1([H:15])[N:3]([H:11])[C:4]1([N:6]([H:12])[H:13])[C:7]([O:9][H:10])([H:14])[H:21])([H:16])[H:17],70.14069500000957
MR_604988_0,[C:1](/[N:3]=[C:6](\[C:4]([C:2]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:10])[O:7][H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:3]([C:5](=[O:8])[H:10])/[C:6](=[C:4](\[C:2]([H:15])([H:16])[H:17])[O:7][H:9])[H:11])([H:12])([H:13])[H:14],54.945154999994514
MR_607047_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[C:7](=[C:5](/[C:4]([H:19])([H:20])[H:21])[N:6]([H:10])[H:11])[H:12])[O:8][H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:7]([C:5]([C:4]([H:19])([H:20])[H:21])([N:6]([H:10])[H:11])[O:8][H:9])[H:12],54.98656999999696
MR_298076_1,[C:1]([C:4]([C:2]([C:3]([O:7][H:9])([H:14])[H:15])([O:6][N:5]([H:12])[H:13])[H:11])([H:16])[H:17])(=[O:8])[H:10]>>[C:1]1([O:8][H:9])([H:10])[C:4]([H:16])([H:17])[C:2]([O:6][N:5]([H:12])[H:13])([H:11])[C:3]([H:14])([H:15])[O:7]1,36.291462500042826
MR_21935_0,[C@@:1]([C:2]([O:7][H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([O:6][H:10])=[O:8])[O:5][H:9]>>[C@@:1]1([C:3]([H:14])([H:15])[H:16])([O:5][H:9])[C@:4]([C:2]([O:7][H:11])([H:12])[H:13])([O:6][H:10])[O:8]1,68.57445499996899
MR_178250_1,[C:1]([O:3][N:2]([H:6])[H:7])([O:4][H:5])([H:8])[H:9]>>[C:1]([N:2]([H:6])[H:7])([O:3][H:9])([O:4][H:5])[H:8],52.6547799999809
MR_242429_1,[C@:1]([N:5]([C:2]([H:12])([H:13])[H:14])[H:10])([O:7][H:9])([N:8]=[C:6]([C:3]([H:15])([H:16])[H:20])[C:4]([H:17])([H:18])[H:19])[H:11]>>[C:1](\[O:7][H:9])(=[N:8]/[C:6]([C:3]([H:15])([H:16])[H:20])([C:4]([H:17])([H:18])[H:19])[N:5]([C:2]([H:12])([H:13])[H:14])[H:10])[H:11],49.489042500001545
MR_297088_0,[C:1]([N:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])[O:6][H:7])([H:8])([H:9])[H:10]>>[C:1]([N:3]1[C@@:4]([C:2]([H:11])([H:12])[H:13])([O:6][H:7])[C:5]1([H:14])[H:15])([H:8])([H:9])[H:10],62.875500000018434
MR_364113_1,[C:1]([N:4]1[C:5](=[C:7]([C:2]([H:12])([H:13])[H:15])[C:3]([H:14])([H:16])[H:17])[C:6]1=[C:8]([H:18])[H:19])([H:9])([H:10])[H:11]>>[C:1](/[N:4]=[C:5]1/[C:6](=[C:8]([H:18])[H:19])[C:7]1([C:2]([H:12])([H:13])[H:15])[C:3]([H:14])([H:16])[H:17])([H:9])([H:10])[H:11],48.03637999999523
MR_386985_0,[N:1]([C:3](=[O:6])[H:10])(/[C:4](=[N:5]/[N:2]([H:8])[H:9])[H:11])[H:7]>>[N:1](=[C:4](\[N:5]([N:2]([H:8])[H:9])[C:3](=[O:6])[H:10])[H:11])\[H:7],43.8685250000313
MR_478137_0,[C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:5][H:9])([O:4][O:6][H:8])[O:7][H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:3][O:4][O:6][H:8])([O:5][H:9])[O:7][H:10],49.02218250003884
MR_503812_0,[C:1](=[C:3]([C:4]1([H:10])[C:5]([C:2]([H:15])([H:16])[H:17])([H:11])[N:8]([H:14])[O:6]1)[O:7][H:9])([H:12])[H:13]>>[C:1](/[C:3](=[C:4](\[O:6]/[N:8]=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:11])[H:10])[O:7][H:9])([H:12])([H:13])[H:14],57.88687500002226
MR_569940_1,[C:1](/[C:5](=[C:3](\[N:2](/[C:4](=[N:7]\[H:10])[H:11])[H:9])[O:6][H:8])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@@:5](/[C:3](=[N:2]/[H:9])[O:6][H:8])(/[C:4](=[N:7]\[H:10])[H:11])[H:12])([H:13])([H:14])[H:15],54.679094999988536
MR_313448_1,[C:1]([C:4]12[N:2]([H:9])[N:6]1[C:3]([O:5][H:8])=[N:7]2)([H:10])([H:11])[H:12]>>[C:1]([c:4]1[n:2]([H:9])[n:6][c:3]([O:5][H:8])[n:7]1)([H:10])([H:11])[H:12],10.574002500019477
